US06087380
1-Methyl-2-[N-(4-amidinophenyl)-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide
Prepared analogously to Example 26 from 1-methyl-2-[N-(4-amidinophenyl)-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride and sodium hydroxide solution. Yield: 80% of theory, C27H28N6O3 (484.6) ##EQU54##

reactant | 1-methyl-2-[N-(4-amidinophenyl)-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CN(C)C2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-Methyl-2-[N-(4-amidinophenyl)-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide | Yield: 80% | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CN(C)C2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)O | C27H28N6O3
